US08648087B2
Step B: Preparation of benzo[d]oxazol-5-ol:
To a solution of 2-aminobenzene-1,4-diol (2.40 g, 19.2 mmol) in triethylorthoformate (10 mL) was added 3 drops of concentrated HCl. After heating to 65° C. for 30 minutes and stirring at room temperature for 16 hours, the mixture was poured into water and extracted with ethyl acetate (2×). The organic phase was washed with HCl (2N) and saturated NaHCO3, dried, and concentrated under reduced pressure to provide the product (2.09 g, 81%) as red-black solid.

reactant | 2-aminobenzene-1,4-diol | 19.2 mmol, 2.40 g | NC1=C(C=CC(=C1)O)O | C6H7NO2
reactant | water | O | H2O
reactant | triethylorthoformate | 10 mL | C(C)OC(OCC)OCC | C7H16O3
catalyst | HCl | 3 drops | Cl | ClH
product | benzo[d]oxazol-5-ol | 2.09 g, 81% | O1C=NC2=C1C=CC(=C2)O | C7H5NO2
